US06503907B2
460 mg (2 mmol) 1-(4-Fluoro-phenyl)-2,3-dihydro-1H-indol-5-ol in 6 ml acetone were treated with 830 mg (6 mmol) powdered K2CO3 and 1 ml (6 mmol) 1,6-dibromohexane. The suspension was stirred at 60° C. for 6 h, cooled to RT, diluted with acetone, filtered and concentrated. Column chromatography on silica gel with a gradient hexane to hexane/EtOAc 19:1 yielded 210 mg (25%) (6-Bromo-hexyloxy)-1-(4-fluoro-phenyl)-2,3-dihydro-1H-indole as yellow oil, MS: 392(MH+, 1Br).

reactant | 1-(4-Fluoro-phenyl)-2,3-dihydro-1H-indol-5-ol | 2 mmol, 460 mg | FC1=CC=C(C=C1)N1CCC2=CC(=CC=C12)O | C14H12FNO
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,6-dibromohexane | 6 mmol, 1 ml | BrCCCCCCBr | C6H12Br2
solvent | acetone | 6 ml | CC(=O)C | C3H6O
product | (6-Bromo-hexyloxy)-1-(4-fluoro-phenyl)-2,3-dihydro-1H-indole | 210 mg, 25% | BrCCCCCCOC1N(C2=CC=CC=C2C1)C1=CC=C(C=C1)F | C20H23BrFNO
